US04258194
By the method described in Example 1, 11.0 g (0.05 mol) of 2,3,4,5-tetrachloropyridine, 4.4 g (0.065 gram atom) of zinc dust (96%) and 9.5 g (0.075 mol) of the ammonium salt of methanephosphonic acid monomethyl ester are reacted to obtain 7.0 g (76% of theory) of 2,3,5-trichloropyridine, m.p. 37°-40° C., which contains, according to gas-chromatographical analysis, 78.8% of 2,3,5-trichloropyridine, 2.5% of 2,3,4,5-tetrachloropyridine and 0.61% of unknown products.

reactant | 2,3,4,5-tetrachloropyridine | 0.05 mol, 11.0 g | ClC1=NC=C(C(=C1Cl)Cl)Cl | C5HCl4N
reactant | methanephosphonic acid monomethyl ester | COP(O)(=O)C | C2H7O3P
catalyst | zinc | 4.4 g | [Zn] | Zn
product | 2,3,5-trichloropyridine | 7.0 g, 76% | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
